US07598423B2
Synthesis of 4-[3-(4-acetyl-2-chloro-3-hydroxy-phenoxymethyl)-[1,2,4]oxadiazol-5-ylmethyl]-benzoic acid
Add 1 N hydrochloric acid (3.6 mL) to a solution of 4-[3-(4-acetyl-2-chloro-3-hydroxy-phenoxymethyl)-[1,2,4]oxadiazol-5-ylmethyl]-benzoic acid ethyl ester (55 mg, 0.13 mmol) in EtOH (1.2 mL) in a microwave tube. Seal the tube and heat in a microwave reactor at 150° C. for 30 min. Purify the reaction mixture by reverse phase HPLC using a gradient of 90:10 to 20:80 (H2O/0.1% TFA):CH3CN as eluent to give the title compound (17 mg, 33%). 1H NMR (DMSO-d6) δ 13.07 (s, 1H), 12.92 (s, 1H), 7.86-7.94 (m, 3H), 7.44 (d, 2H), 6.89 (d, 1H), 5.49 (s, 2H), 4.49 (s, 2H), 2.59 (s, 3H). LC-MS (m/e): 401 (M−1).

reactant | hydrochloric acid | 1 N, 3.6 mL | Cl | ClH
reactant | 4-[3-(4-acetyl-2-chloro-3-hydroxy-phenoxymethyl)-[1,2,4]oxadiazol-5-ylmethyl]-benzoic acid ethyl ester | 0.13 mmol, 55 mg | C(C)OC(C1=CC=C(C=C1)CC1=NC(=NO1)COC1=C(C(=C(C=C1)C(C)=O)O)Cl)=O | C21H19ClN2O6
solvent | EtOH | 1.2 mL | CCO | C2H6O
product | 4-[3-(4-acetyl-2-chloro-3-hydroxy-phenoxymethyl)-[1,2,4]oxadiazol-5-ylmethyl]-benzoic acid | 17 mg, 33% | C(C)(=O)C1=C(C(=C(OCC2=NOC(=N2)CC2=CC=C(C(=O)O)C=C2)C=C1)Cl)O | C19H15ClN2O6
